US05286721
To a solution of 3.98 g of 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxybutane in 20 ml of acetonitrile was added 2 ml of concentrated hydrochloric acid at 0° C. After stirring for 3 hours at room temperature, the mixture was extracted with chloroform and the organic layer was washed with saturated sodium hydrogen carbonate and brine, and dried over anhydrous magnesium sulfate. Evaporation of the solvent followed by a column chromatography on silica gel (hexane:ethyl acetate=1:1) gave 2.88 g of 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol quantitatively.

reactant | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxybutane | 3.98 g | C(C=C)OC(=O)NCC(C(C)O[Si](C)(C)C(C)(C)C)CNC(=O)OCC=C | C19H36N2O5Si
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-ol | 2.88 g | C(C=C)OC(=O)NCC(C(C)O)CNC(=O)OCC=C | C13H22N2O5
